US07960394B2
8-Methoxy-3-methyl-2-[4-(1-cyclopropyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 85 but using 2-amino-3-methoxybenzoic acid, methylamine, 4-methoxybenzaldehyde, tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate, and [(1-ethoxycyclopropyl)oxy](trimethyl)silane.

reactant | 2-amino-3-methoxybenzoic acid | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | methylamine | CN | CH5N
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | [(1-ethoxycyclopropyl)oxy](trimethyl)silane | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
product | 8-Methoxy-3-methyl-2-[4-(1-cyclopropyl-4-piperidinyloxy)-phenyl]-4(3H)-quinazolinone | COC=1C=CC=C2C(N(C(=NC12)C1=CC=C(C=C1)OC1CCN(CC1)C1CC1)C)=O | C24H27N3O3
